US04277471
A solution of 10.1 g. of 2-acetyl-1,1'-biphenyl in 100 ml. of ethanol containing 7.6 g. of paraformaldehyde, 9.7 g. of dimethylaminium chloride and one drop of concentrated hydrochloric acid was heated to reflux and stirred for sixteen hours. After cooling the reaction mixture to room temperature, the solvent was removed by evaporation. The residue thus formed was crystallized from ethanol and diethyl ether to give 3.6 g of N,N-dimethyl-3-oxo-3-(1,1'-biphenyl-2-yl)propylaminium chloride. M.P. 130°-131° C.

reactant | 2-acetyl-1,1'-biphenyl | C(C)(=O)C1=C(C=CC=C1)C1=CC=CC=C1 | C14H12O
reactant | paraformaldehyde | C=O | CH2O
reactant | dimethylaminium chloride | [Cl-].C[NH2+]C
catalyst | hydrochloric acid | one drop | Cl | ClH
solvent | ethanol | 7.6 g | C(C)O | C2H6O
product | N,N-dimethyl-3-oxo-3-(1,1'-biphenyl-2-yl)propylaminium chloride | 3.6 g | [Cl-].C[NH+](C)CCC(C1=C(C=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C17H19NO.ClH/c1-18(2)13-12-17(19)16-11-7-6-10-15(16)14-8-4-3-5-9-14;/h3-11H,12-13H2,1-2H3;1H
